US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-{3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-{3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (55.0 mg, 0.191 mmol) and 1-[1-(3-bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine (69.0 mg, 0.204 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (23.0 mg, 0.0421 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.035 g, 34%).

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.191 mmol, 55.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-[1-(3-bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine | 0.204 mmol, 69.0 mg | BrC=1C=C(C=CC1)N1CCC(CC1)N1CCN(CC1)C | C16H24BrN3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0421 mmol, 23.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-{3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCC(CC2)N2CCN(CC2)C | C29H35N7O2S
